US08536172B2
In a 50 ml, round bottom flask, 2-fluoro-6-(4-methanesulfonylpiperidine-1-yl)benzaldehyde (1.37 g, 4.8 mmol), N-(2-methylsulfanyl-pyrimidin-4-yl)-hydrazine (0.75 g, 4.8 mmol) and DBU (2.19 g, 14.4 mmol) were combined with DMSO (17 mL). The mixture was stirred at 180° C. for 1.5 hr in a microwave. The brown solution was blown to dryness and the residue was purified through ISCO flash column chromatography (30% to 100% ethyl acetate in hexanes) to provide 4-(4-methanesulfonyl-piperidin-1-yl)-1-(2-methylsulfanyl-pyrimidin-4-yl)-1H-indazole as a pale orange solid (750 mg, 38.7% yield). LC-MS calcd for C18H21N5O2S2 (m/e) 403.11, obsd 404.0 (M+H).

reactant | 2-fluoro-6-(4-methanesulfonylpiperidine-1-yl)benzaldehyde | 4.8 mmol, 1.37 g | FC1=C(C=O)C(=CC=C1)N1CCC(CC1)S(=O)(=O)C | C13H16FNO3S
reactant | N-(2-methylsulfanyl-pyrimidin-4-yl)-hydrazine | 4.8 mmol, 0.75 g | CSC1=NC=CC(=N1)NN | C5H8N4S
reactant | DBU | 14.4 mmol, 2.19 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMSO | 17 mL | CS(=O)C | C2H6OS
product | 4-(4-methanesulfonyl-piperidin-1-yl)-1-(2-methylsulfanyl-pyrimidin-4-yl)-1H-indazole | 750 mg, 38.7% yield | CS(=O)(=O)C1CCN(CC1)C1=C2C=NN(C2=CC=C1)C1=NC(=NC=C1)SC | C18H21N5O2S2
